US08895544B2
2-Fluoro-4-[3-(5-[1,8]naphthyridin-3-ylmethyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol
The title compound was prepared from 2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol (100 mg, 0.21 mmol) and [1,8]naphthyridine-3-carbaldehyde (146.1 mg, 0.92 mmol) using the method of Example 51. The crude material was purified initially over silica and finally by Prep TLC (Mobile Phase: 10% MeOH-DCM) to afford the title compound as an off white solid in 9.0% yield, 22 mg.

reactant | 2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol | 0.21 mmol, 100 mg | FC1=C(C=C(C(=C1)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1)CC(F)(F)F)O | C21H17F4N5O
reactant | [1,8]naphthyridine-3-carbaldehyde | 0.92 mmol, 146.1 mg | N1=CC(=CC2=CC=CN=C12)C=O | C9H6N2O
product | 2-Fluoro-4-[3-(5-[1,8]naphthyridin-3-ylmethyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol | FC1=C(C=C(C(=C1)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CN(CC2)CC=2C=NC3=NC=CC=C3C2)N1)CC(F)(F)F)O | C30H23F4N7O
